US06107458
To a solution of 4-methoxycarbonylbenzaldehyde oxime (896 mg) in N,N-dimethylformamide (10 ml) was added 4N-hydrochloride acid in 1,4-dioxane (1.38 ml) and oxone® (1.69 g). The suspension was stirred at ambient temperature for 16 hours and poured into ice-water. The object compound was extracted with ethyl acetate and the organic layer was washed with brine, dried over magnesium sulfate. The solvents were removed under reduced pressure to give 4-Methoxycarbonylbenzaldehyde oxime chloride (1.05 g).

reactant | 4-methoxycarbonylbenzaldehyde oxime | 896 mg | COC(=O)C1=CC=C(C=NO)C=C1 | C9H9NO3
reactant | hydrochloride | Cl | ClH
reactant | oxone | OOS(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 1.38 ml | O1CCOCC1 | C4H8O2
product | 4-Methoxycarbonylbenzaldehyde oxime chloride | 1.05 g | [Cl-].COC(=O)C1=CC=C(C=NO)C=C1 | InChI=1S/C9H9NO3.ClH/c1-13-9(11)8-4-2-7(3-5-8)6-10-12;/h2-6,12H,1H3;1H/p-1
